US06352993B1
Step 2: 6-methoxymethyl-5-methyl-2-(4-fluorophenylamino)-4-(1-methyl-6-methoxy-1,2, 3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 4-fluoroaniline(0.32 ml, 3.3 mmol) and triethylamine(0.46 ml, 3.3 mmol) were added to a solution of 6-methoxymethyl-5-methyl-2-chloro-4-(1-methyl-6-methoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine (1.0 g, 2.3 mmol) in dimethylformamide(5 ml), 0.56 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 25.

reactant | 4-fluoroaniline | 3.3 mmol, 0.32 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | triethylamine | 3.3 mmol, 0.46 ml | C(C)N(CC)CC | C6H15N
reactant | 6-methoxymethyl-5-methyl-2-chloro-4-(1-methyl-6-methoxy-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 2.3 mmol, 1.0 g | COCC1=C(C(=NC(=N1)Cl)N1C(C2=CC=C(C=C2CC1)OC)C)C | C18H22ClN3O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-methoxymethyl-5-methyl-2-(4-fluorophenylamino)-4-(1-methyl-6-methoxy-1,2, 3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.56 g, Yield 53.4% | Cl.COCC1=C(C(=NC(=N1)NC1=CC=C(C=C1)F)N1C(C2=CC=C(C=C2CC1)OC)C)C | InChI=1S/C24H27FN4O2.ClH/c1-15-22(14-30-3)27-24(26-19-7-5-18(25)6-8-19)28-23(15)29-12-11-17-13-20(31-4)9-10-21(17)16(29)2;/h5-10,13,16H,11-12,14H2,1-4H3,(H,26,27,28);1H
